US08809353B2
2,4-Dichloro-7-methylquinazoline (2.0 g, 9.4 mmol) was suspended in 40 mL of dichloromethane under an N2 atmosphere and cooled to 0° C. (R)-tert-Butyl pyrrolidin-3-ylcarbamate (1.75 g, 9.4 mmol) was dissolved in a solution of 10 mL of dichloromethane and Et3N (2.62 mL, 18.8 mmol) and added dropwise to the above reaction mixture. The reaction was warmed to RT and stirred for 16 hours. The reaction was quenched with water, extracted with DCM, dried over Na2SO4, filtered, and concentrated under reduced pressure. Purification via silica gel chromatography using 0%-10% EtOAc in DCM gave (R)-tert-butyl 1-(2-chloro-7-methylquinazolin-4-yl)pyrrolidin-3-ylcarbamate (2.82 g, 83% yield). LC/MS: m/z 363.1 (M+H)+ at 3.26 min (10%-99% CH3CN (0.035% TFA)/H2O (0.05% TFA)).

reactant | 2,4-Dichloro-7-methylquinazoline | 9.4 mmol, 2.0 g | ClC1=NC2=CC(=CC=C2C(=N1)Cl)C | C9H6Cl2N2
reactant | (R)-tert-Butyl pyrrolidin-3-ylcarbamate | 9.4 mmol, 1.75 g | N1C[C@@H](CC1)NC(OC(C)(C)C)=O | C9H18N2O2
reactant | Et3N | 18.8 mmol, 2.62 mL | CCN(CC)CC | C6H15N
solvent | dichloromethane | 40 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | (R)-tert-butyl 1-(2-chloro-7-methylquinazolin-4-yl)pyrrolidin-3-ylcarbamate | 2.82 g, 83% yield | ClC1=NC2=CC(=CC=C2C(=N1)N1C[C@@H](CC1)NC(OC(C)(C)C)=O)C | C18H23ClN4O2
